US04014885
To a warm (40° C.) solution of 41.5 grams (0.23 mole) of 3,4-dimethoxyacetophenone and 40.5 grams (0.27 mole) of piperonal in 220 milliliters of ethanol was added 60 milliliters of 10 % aqueous sodium hydroxide. The mixture was warmed for 10 minutes at 40°-50° C; then stirred at room temperature for 2 hours. After standing overnight, the yellow crystalline produce was collected by filtration, washed with water (3 × 40 milliliters), and dried to give 72 grams (quantitative yield) of V, melting point 127°-129° c. An analytical sample was prepared by recrystallization of 1.6 gram of the product from 50 milliliters of ethanol, giving 1.4 gram of pure chalcone as yellow needles, melting point 131°-133° C.; λ (ethanol) 242 (log ε 4.23), 3.60 nm (4.53).

reactant | 3,4-dimethoxyacetophenone | 0.23 mole, 41.5 grams | CC(=O)C1=CC(=C(C=C1)OC)OC | C10H12O3
reactant | piperonal | 0.27 mole, 40.5 grams | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | sodium hydroxide | 60 milliliters | [OH-].[Na+]
solvent | ethanol | 220 milliliters | C(C)O | C2H6O
product | 3',4'-Dimethoxy-3,4-methylenedioxychalcone | 72 grams, quantitative yield | COC=1C=C(C(C=CC2=CC3=C(C=C2)OCO3)=O)C=CC1OC | C18H16O5
